Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfonamides / Penicillins / Decongestant Sinus / Potassium 
Sorbate
 
Attending: ___.
 
Chief Complaint:
dyspnea, wheezing
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with history of metastatic thymic cancer s/p 
palliative chemo, stage I NSCLC s/p CyberKnife, ?radiation 
pneumonitis, and h/o asthma presents with worsening wheezing at 
home. About 3 weeks ago patient started wheezing, feeling 
dyspneic even at rest. No new chest pain but she does report 
chronic bilateral lower anterior rib pain and chronic RUQ 
abdominal pain. No pleuritic pain. No fevers or chills. Has 
chronic intermittent productive coughs. She was seen by her PCP 
and was prescribed prednisone 40 mg daily now tapered down to 20 
mg daily. She also finished a 7-day course of levofloxacin the 
day prior to this admission. Her respiratory symptoms have not 
improved and might actually be getting worse, requiring almost 
q2h nebulizer treatments at home. Concerned, she called her 
pulmonologist's office and was advised to come to the ED, but 
she was reluctant and only agreed to come in for a CXR, which 
showed the known right-sided pleural effusion. With her symptoms 
not improving, she finally agreed to come to the ED. 
. 
In the ED, T 99.2, HR 102, BP 146/74, RR 20, 98%RA. Exam 
revealed significant bilateral wheezing. CXR showed chronic 
right pleural effusion and RML opacity with no new change. She 
received vancomycin 1 gm IV x 1, azithromycin 500 mg Po x 1, ASA 
325 mg PO x 1, Combivent x 1, morphine 4 mg IV x 1. Admitted to 
___ for further management.
.
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies palpitations. Denies nausea, vomiting, 
diarrhea, constipation. No recent change in bowel or bladder 
habits. No dysuria. Denies arthralgias or myalgias. Denies 
rashes or skin breakdown. No numbness/tingling in extremities. 
 
Past Medical History:
1. Metastatic thymic carcinoma: s/p excision, XRT, pleurodesis 
for recurrent right-sided pleural effusion ___, and 5 cycles 
of palliative chemotherapy with carboplatin and etoposide. 
___ was her oncologist.  
2. NSCLC: Stage 1 (T1N0M0) disease; treated with cyberknife 
radiosurgery, last treatment ___. 
3. Asthma diagnosed at age ___, treated at ___, previously 
hospitalized, never intubated.  
4. Post nasal drip  
5. Impaired glucose tolerance. Exacerbated by recent steroids. 
Has been on metformin in the past but did not tolerate GI side 
effects. 
6. Hypertension  
7. GERD 
8. Histoy of C diff infection 
 
Social History:
___
Family History:
No known family history of cancer. Family history of asthma - 
one daughter and ___ grandchildren affected. 
 
Physical Exam:
Vitals: T 98.1, BP 122/70, HR 90, RR 20, 95%RA
GEN: Elderly woman lying in bed, NAD but uncomfortable with 
audible wheezing, awake, alert, talking comfortably in ___ 
with daughter at bedside translating  
HEENT: EOMI, sclera anicteric, conjunctivae clear, OP moist and 
without lesion
NECK: Supple, no JVD  
CV: Reg rate, normal S1, S2. No m/r/g.   
CHEST: Resp were slightly labored but without accessory muscle 
use. Expiratory wheezes throughout both lung fields, no 
crackles.  
ABD: Soft, tender at RUQ, ND, no HSM
EXT: No c/c/e
SKIN: No rash 
 
Pertinent Results:
IMAGING:
# CXR ___: 
FINDINGS: No significant difference is seen from the prior study 
with 
persistent moderate-sized right pleural effusion and persistent 
right middle lobe opacification with volume loss as well as 
hilar predominance, likely corresponding to loculated effusion 
on CT. The left lung remains clear without effusion or focal 
opacity. Bronchiectatic changes in the right middle and lower 
lobes are again seen. Cardiomediastinal silhouette is unchanged. 
There is no change in the wedge compression fracture of the T8 
vertebral body. 
.
IMPRESSION: No interval change in the right pleural effusion, 
middle lobe and lower lobe opacification. 
.
___ CXR: 
FINDINGS: No significant interval change is seen from the prior 
study with 
persistent right effusion, middle lobe opacification, and volume 
loss with 
hilar predominance likely corresponding to loculated effusion 
and 
bronchiectasis in the right middle and lower lobes. The left 
lung is still 
well aerated.   
IMPRESSION: No interval change from the prior study without 
acute process. 
.
ECG ___: sinus, rate 97 bpm, LAD, Q in III, no acute ST/T 
change, unchange from prior  
.

.
<B>Micro:</B>
___ Sputum GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 

   RESPIRATORY CULTURE (Preliminary): 
      MODERATE GROWTH Commensal Respiratory Flora. 
      ASPERGILLUS SPECIES.    SPARSE GROWTH. 
      ASPERGILLUS ___.    SPARSE GROWTH. 
___  BLOOD CULTURE-PENDING 
___  URINE CULTURE-<10,000 organisms
___  BLOOD CULTURE-PENDING
___  Urine analysis-NEG
.
Labs on admission:
___ 04:20PM BLOOD WBC-11.2*# RBC-4.87 Hgb-13.7 Hct-40.5 
MCV-83 MCH-28.1 MCHC-33.9 RDW-16.0* Plt ___
___ 04:20PM BLOOD Neuts-93.1* Lymphs-4.5* Monos-2.1 Eos-0.1 
Baso-0.2
___ 04:20PM BLOOD Glucose-147* UreaN-26* Creat-1.0 Na-133 
K-4.2 Cl-97 HCO3-25 AnGap-15
.
Labs on discharge:
___ 08:15AM BLOOD WBC-12.8* RBC-5.07 Hgb-13.9 Hct-43.7 
MCV-86 MCH-27.5 MCHC-31.8 RDW-16.0* Plt ___
___ 08:15AM BLOOD Glucose-146* UreaN-29* Creat-1.0 Na-134 
K-4.3 Cl-95* HCO3-25 AnGap-18
___ 07:00AM BLOOD ALT-21 AST-13 LD(LDH)-165 AlkPhos-56 
Amylase-38 TotBili-0.4
___ 07:00AM BLOOD Lipase-8
___ 08:15AM BLOOD Calcium-9.5 Phos-2.9 Mg-2.___ w/hx of metastatic thymic cancer s/p palliative chemo, stage 
I NSCLC s/p CyberKnife, ?radiation pneumonitis, and h/o asthma 
presents with worsening wheezing despite steroids and 
antibiotics. 
. 
# Asthma exacerbation: Poor aeration on admission with diffuse 
expiratory wheezes, improved air movement w/continued end exp 
wheezes this AM. Has not been hypoxic during this admission. 
Unclear trigger for asthma exacerbation, possible infection from 
sick contact. There is no strong evidence for PE and this 
diagnosis unlikely as patient improved during the course of her 
admission. Radiation pneumonitis might be a contributing factor. 
We had the patient on standing q2H albuterol nebulizers; we had 
initially started ipratropium q6H as well, but this was 
discontinued as the patient did not feel as it is helping her 
symptoms. Pt felt that her breathing was much improved on this 
regimen, better than baseline at home prior to exacerbation. She 
was able to go q3 hours for albuterol nebs prior to discharge; 
home baseline requirement q4hrs per patient. We started patient 
on prednisone 60 mg daily and was started on a taper on 
discharge; this can be readdressed by pt's primary pulmonologist 
at the end of the month. We continued pt's home montelukast 10 
mg daily, tiotroprium. We also started empiric antibiotics with 
aztreonam and azithromycin (PCN allergy; covering Pseudomonas 
given patient's recent hospitalization); pt was discharged on  
Azithromycin 250mg by mouth daily for 2 days for a total of 5 
days. Blood and urine cultures pending, NGTD at time of 
discharge, urine analysis negative. Sputum Gram stain and 
culture preliminarily consistent w/oral flora preliminarily, 
sparse mold; likely a contaminate. Pt noted to have a elevation 
of WBC during admission, likely secondary to steroids, but we 
continued to monitor for signs of infection; pt's cough improved 
during her stay and she remained afebrile. Pt was discharged 
with continued wheezes on exam on day of discharge, but this may 
be patient's baseline as discussed with her outpatient 
pulmonologist; her ambulatory sats remained in the mid 90%s with 
a brief desat to 86%, which resolved quickly with a short break.
. 
# Thymic cancer and NSCLC: s/p chemo for thymic cancer and 
Cyberknife for stage I NSCLC. Patient is being followed closely 
by Dr. ___.  Dr. ___ was notified of patient's 
admission.
. 
# HTN: BP stable throughout admission. We continued pt's home 
HCTZ 25 mg daily, valsartan 320 mg daily.
. 
# Insomnia: continued home lorazepam 1 mg bid prn insomnia 
. 
# GERD: continued home omeprazole 20 mg bid 
. 
# Chronic back pain: continued home oxycodone-acetaminophen 
___ mg q6h prn pain
 
Medications on Admission:
albuterol nebs prn
albuterol inh prn
alendronate 70 mg weekly
fexofenadine 180 mg daily
fluticasone 220 mcg inh bid
HCTZ 25 mg daily
lorazepam 1 mg bid prn insomnia
montelukast 10 mg daily
omeprazole 20 mg bid
oxycodone-acetaminophen ___ mg q6h prn pain
prednisone 20 mg daily, on tapering regimen
salmeterol 50 mcg 1 puff inh bid
tiotropium 18 mcg inh daily
valsartan 320 mg daily
aspirin 81 mg daily
calcium carbonate 600 mg daily
ergocalciferol 
ferrous sulfate 325 mg daily
MVI
omega-3
 
Discharge Medications:
1. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation q3-4hrs as needed for SOB, 
wheeze.
Disp:*qs 1 month* Refills:*0*
2. Ventolin HFA 90 mcg/Actuation HFA Aerosol Inhaler Sig: Two 
(2) puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
3. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

4. fexofenadine 180 mg Tablet Sig: One (1) Tablet PO once a day. 
 
5. fluticasone 220 mcg/Actuation Aerosol Sig: ___ puffs 
Inhalation twice a day.  
6. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
7. lorazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety/insomnia.  
8. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
10. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for pain.  
11. prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 3 weeks: Please take 60mg for 7 days; then 40mg for 
7 days; then 20mg for 4 days then one half tablet per day for 4 
days; then stop.
Disp:*41 Tablet(s)* Refills:*0*
12. salmeterol 50 mcg/dose Disk with Device Sig: One (1) Disk 
with Device Inhalation Q12H (every 12 hours).  
13. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).
Disp:*30 Cap(s)* Refills:*2*
14. valsartan 320 mg Tablet Sig: One (1) Tablet PO once a day.  
15. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
16. calcium carbonate 600 mg (1,500 mg) Tablet Sig: One (1) 
Tablet PO once a day.  
17. ergocalciferol (vitamin D2)  Oral
18. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
19. ferrous sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO once a day.  
20. Omega-3 Fish Oil  Oral
21. azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 2 days.
Disp:*2 Tablet(s)* Refills:*0*
22. menthol-cetylpyridinium 3 mg Lozenge Sig: One (1) Lozenge 
Mucous membrane PRN (as needed) as needed for sore throat.
Disp:*30 Lozenge(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: asthma exacerbation
.
Secondary diagnosis: metastatic thymic cancer, stage I non-small 
cell lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you during your admission. You 
were admitted for an asthma exacerbation. You were started on 
antibiotics and steroids.
.
Please make the following changes to your medications:
-START tiotroprium 1 capsule inhaled daily for your asthma 
-START prednisone 60mg by mouth daily for 7 days; then 40mg by 
mouth for 7 days then 20mg by mouth for 4 days then 10mg daily 
(one half talbet) for your asthma then stop
-START Azithromycin 250mg by mouth daily for 2 days for your 
asthma exacerbation
-START cepacol lozenges as needed for your sore throat
.
Please continue all other medications as prescribed.
 
Followup Instructions:
___